US06630471B1
d) 7-(1,1-Dimethylethyl)-6-(2-ethyl-2H-1,2,4-triazol-3-ylmethoxy)-3-(2-fluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine
To a solution of (2-ethyl-2H-1,2,4-triazol-3-yl)methanol (0.094 g, 0.74 mmol) and 6-chloro-7-(1,1-dimethylethyl)-3-(2-fluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine (0.15 g. 0.49 mmol) in DMF (10 ml) was added sodium hydride (0.024 g of a 60% dispersion in oil, 1.1 mol eq.) and the reaction mixture was stirred at room temperature for 30 minutes. After this time, the reaction mixture was diluted with water (80 ml) and the solid that precipitated was collected by filtration and washed several times with water in the sinter funnel. The solid was recrystallised from ethyl acetate/hexane to give pure title compound (0.085 g, 44%). Data for the title compound: 1H NMR (250 MHz, CDCl3) δ1.40-1.47 (12H, m), 4.14 (2H, t, J=7.3 Hz), 5.26 (2H, s), 7.26-7.38 (2H, m), 7.53-7.58 (1H, m), 7.86-7.90 (1H, m), 7.93 (1H, s), 7.99 (1H, s); MS (ES+) m/e 396 [MH]+. Anal. Found C, 61.02; H, 5.45; N, 24.75%. C20H22FN7O requires C, 60.75; H, 5.61; N, 24.79%.

reactant | (2-ethyl-2H-1,2,4-triazol-3-yl)methanol | 0.74 mmol, 0.094 g | C(C)N1N=CN=C1CO | C5H9N3O
reactant | 6-chloro-7-(1,1-dimethylethyl)-3-(2-fluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine | 0.49 mmol, 0.15 g | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC=C2)F)C(C)(C)C | C15H14ClFN4
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 80 ml | O | H2O
product | 7-(1,1-Dimethylethyl)-6-(2-ethyl-2H-1,2,4-triazol-3-ylmethoxy)-3-(2-fluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine | 0.085 g, 44% | CC(C)(C)C1=CC=2N(N=C1OCC=1N(N=CN1)CC)C(=NN2)C2=C(C=CC=C2)F | C20H22FN7O
